US04997847
(ii) Diethyl (6-hydroxy-1,1-dimethylhexyl)malonate
At 50° C., a solution of 5-bromopentyltetrahydropyranylether (13.8 g, 58.7 mmol) was dropped slowly into a mixture of magnesium (1.3 g), 30 ml of dry tetrahydrofuran and one crystal of iodone. The resulting Grignard solution was then dropped at -10° C. into a stirred solution of 11.9 g (58.7 mmol) of isopropylidenemalonic acid diethylester in 100 ml of dry tetrahydrofuran. The resulting solution was stirred for one hour at room temperature, poured into a mixture of ice and hydrochloric acid and extracted with ether. After drying over sodium sulphate, the solvent was removed and the oily residue was taken up in ethanol. A small amount of Amberlyst 15 was added and the mixture was heated for 15 minutes at 75° C. After filtration, the solution was evaporated and the oily residue was chromatographed on silica gel with methylene chloride, then eluted with ether. Yield: 10.0 g, (34% of theory), colourless oil.

reactant | 5-bromopentyltetrahydropyranylether | 58.7 mmol, 13.8 g | BrCCCCCOC1OCCCC1 | C10H19BrO2
reactant | magnesium | 1.3 g | [Mg] | Mg
reactant | isopropylidenemalonic acid diethylester | 58.7 mmol, 11.9 g | C(C)OC(C(C(=O)OCC)=C(C)C)=O | C10H16O4
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Diethyl (6-hydroxy-1,1-dimethylhexyl)malonate | OCCCCCC(C)(C)C(C(=O)OCC)C(=O)OCC | C15H28O5
